US08455525B2
4-((1R,2S)-2-(tert-Butyldimethylsilyloxy)-1-(5-(4-iodophenyl)-1,3,4-oxadiazol-2-yl)propylamino)-2-chloro-3-methylbenzonitrile
To a solution of triphenylphosphine (7.2 g, 27.5 mmol) in DCM (300 mL) was added 12 (7.0 g, 27.5 mmol) at 0° C. After 12 was dissolved completely, Et3N (7.7 mL, 55.2 mmol) was added, followed by a solution of N′-((2R,3S)-3-(tert-butyldimethylsilyloxy)-2-(3-chloro-4-cyano-2-methylphenylamino)butanoyl)-4-iodobenzohydrazide (8.6 g, 13.7 mmol) in DCM (100 mL). The reaction mixture was allowed to warm to room temperature and stirred for an additional 60 min. The reaction was quenched with saturated sodium thiosulfate (50 mL) and diluted with DCM (500 mL). The organic layer was separated and washed with water, brine, dried over Na2SO4 and filtered. After the solvent was removed, the residue was purified by flash chromatography to provide the title compound (7.3 g, 88%). 1H NMR (400 MHz, CDCl3, δ in ppm) 8.06 (d, J=8.6 Hz, 2H), 7.88 (d, J=8.6 Hz, 2H), 7.55 (d, J=8.4 Hz, 1H), 6.66 (d, J=8.4 Hz, 1H), 5.56 (d, J=8.8 Hz, 1H), 5.00 (dd, J=2.0, 8.8 Hz, 1H), 4.74 (m, 1H), 2.59 (s, 3H), 1.62 (d, J=6.3 Hz, 3H), 1.07 (s, 9H), 0.28 (s, 3H), 0.00 (s, 3H).

reactant | triphenylphosphine | 27.5 mmol, 7.2 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | Et3N | 55.2 mmol, 7.7 mL | CCN(CC)CC | C6H15N
reactant | N′-((2R,3S)-3-(tert-butyldimethylsilyloxy)-2-(3-chloro-4-cyano-2-methylphenylamino)butanoyl)-4-iodobenzohydrazide | 13.7 mmol, 8.6 g | [Si](C)(C)(C(C)(C)C)O[C@H]([C@H](C(=O)NNC(C1=CC=C(C=C1)I)=O)NC1=C(C(=C(C=C1)C#N)Cl)C)C | C25H32ClIN4O3Si
solvent | DCM | 300 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | 4-((1R,2S)-2-(tert-Butyldimethylsilyloxy)-1-(5-(4-iodophenyl)-1,3,4-oxadiazol-2-yl)propylamino)-2-chloro-3-methylbenzonitrile | 7.3 g, 88% | [Si](C)(C)(C(C)(C)C)O[C@H]([C@H](C=1OC(=NN1)C1=CC=C(C=C1)I)NC1=C(C(=C(C#N)C=C1)Cl)C)C | C25H30ClIN4O2Si
